US09403810B2
Step 6: 4-Methyl-5-(spiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylic acid
To a stirred solution of ethyl 4-methyl-5-(spiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylate (180 mg, 0.622 mmol) in ethanol (10 mL), 2M NaOH (aq) (0.311 mL, 0.622 mmol) was added and the reaction mixture was stirred at room temperature. The resulting mixture was diluted with water (30 mL) and acidified to pH 5-6 by the addition of 2M HCl (aq). The aqueous was extracted with EtOAc (2×20 mL) and the combined organic extracts were washed with brine (20 mL), dried over MgSO4, filtered and concentrated under reduced pressure to afford the title compound;

reactant | ethyl 4-methyl-5-(spiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylate | 0.622 mmol, 180 mg | CC=1C(=NOC1C1=CCC2(CCCC2)CC1)C(=O)OCC | C17H23NO3
reactant | NaOH | 0.622 mmol, 2M, 0.311 mL | [OH-].[Na+]
reactant | HCl | 2M | Cl | ClH
solvent | ethanol | 10 mL | C(C)O | C2H6O
solvent | water | 30 mL | O | H2O
product | 4-Methyl-5-(spiro[4.5]dec-7-en-8-yl)isoxazole-3-carboxylic acid | CC=1C(=NOC1C1=CCC2(CCCC2)CC1)C(=O)O | C15H19NO3
